US08703761B2
{1-[1-Benzyl-5-(4-fluoro-phenyl)-1H-[1,2,4]triazol-3-ylcarbamoyl]-1-methyl-ethyl}-carbamic acid benzyl ester
1-Benzyl-5-(4-fluorophenyl)-1H-1,2,4-triazol-3-amine (4.15 g, 15.47 mmol), 2-(benzyloxy)-4,4-dimethyloxazol-5(4H)-one (4.07 g, 18.56 mmol) were stirred in 5 ml of toluene in a 100 ml prbf. The white suspension was allowed to stir at 50° C. for over weekend. It was then cooled to r.t. The volatiles were removed in vacuo and the resulted solid was dissolved in EtOAc (130 mL) and heptane (50 mL) with heating. It was cooled to r.t. and let sit overnight. The resulted precipitates were collected and dried to afford the title compound. 1H NMR (400 MHz, DMSO-d6) 1.41 (s, 6H) 5.01 (s, 2H) 5.43 (s, 2H) 7.12 (d, J=6.82 Hz, 2H) 7.23-7.43 (m, 11H) 7.64-7.74 (m, 2H), 10.05 (br. s., 1H). MS (m/z) 488.1 M(+1), tR=1.60, Method A.

reactant | 1-Benzyl-5-(4-fluorophenyl)-1H-1,2,4-triazol-3-amine | 15.47 mmol, 4.15 g | C(C1=CC=CC=C1)N1N=C(N=C1C1=CC=C(C=C1)F)N | C15H13FN4
reactant | 2-(benzyloxy)-4,4-dimethyloxazol-5(4H)-one | 18.56 mmol, 4.07 g | C(C1=CC=CC=C1)OC=1OC(C(N1)(C)C)=O | C12H13NO3
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | {1-[1-Benzyl-5-(4-fluoro-phenyl)-1H-[1,2,4]triazol-3-ylcarbamoyl]-1-methyl-ethyl}-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(C)(C)C(NC1=NN(C(=N1)C1=CC=C(C=C1)F)CC1=CC=CC=C1)=O)=O | C27H26FN5O3
